US04200641
A mixture of 70.4 parts of 1-(phenylmethyl)piperazine, 39.4 parts of 1-(2-chloroethyl)-1,3-dihydro-2H-benzimidazol-2-one and 360 parts of methylbenzene is stirred and refluxed overnight. The reaction mixture is cooled, water is added and the layers are separated. The methylbenzene-phase is washed three times with water, dried, filtered and evaporated. The solid residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (95:5) as eluent. The pure fractions are collected and the eluent is evaporated. The residue is boiled in 2,2'-oxybispropane. The whole is cooled on an ice-bath. The product is filtered off and crystallized from a mixture of 2,2'-oxybispropane and a small amount of 2-propanol, yielding 1,3-dihydro-1-{2-[4-(phenylmethyl)-1-piperazinyl]ethyl}-2H-benzimidazol-2-one; mp. 136.5° C.

reactant | 1-(phenylmethyl)piperazine | C1(=CC=CC=C1)CN1CCNCC1 | C11H16N2
reactant | 1-(2-chloroethyl)-1,3-dihydro-2H-benzimidazol-2-one | ClCCN1C(NC2=C1C=CC=C2)=O | C9H9ClN2O
reactant | methylbenzene | CC1=CC=CC=C1 | C7H8
solvent | water | O | H2O
product | 1,3-dihydro-1-{2-[4-(phenylmethyl)-1-piperazinyl]ethyl}-2H-benzimidazol-2-one | C1(=CC=CC=C1)CN1CCN(CC1)CCN1C(NC2=C1C=CC=C2)=O | C20H24N4O
